US08426420B2
4-[(S)-2-({5-[2-((S)-2-Cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carbonyl}-amino)-4-trifluoromethanesulfonylamino-butyryl]-piperazine-1-carboxylic acid ethyl ester
To a solution of 100 mg 4-[(S)-4-Amino-2-({5-[2-((S)-2-cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carbonyl}-amino)-butyryl]-piperazine-1-carboxylic acid ethyl ester in 5 ml dichloromethane were added at −78° C. 26 μl triethylamine and 27 μl trifluoromethanesulfonic acid anhydride. After 20 minutes stirring at this temperature 1 ml of aqueous NaHCO3 was added, the solution quickly warmed to room temperature and the organic layer separated. The latter one was washed with brine and dried over MgSO4 before being concentrated. The crude product was purified by preparative HPLC (C18 reverse phase column, elution with a water/MeCN gradient with 0.1% TFA) to give the title compound. Yield: 35 mg MS (ES+): m/e=784.

reactant | 4-[(S)-4-Amino-2-({5-[2-((S)-2-cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carbonyl}-amino)-butyryl]-piperazine-1-carboxylic acid ethyl ester | 100 mg | C(C)OC(=O)N1CCN(CC1)C([C@H](CCN)NC(=O)C1=NN(C(=C1)OCC(=O)N1[C@@H](CCC1)C(NC1CCC1)=O)C1=CC=CC=C1)=O | C32H44N8O7
reactant | triethylamine | 26 μl | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesulfonic acid anhydride | 27 μl | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | NaHCO3 | 1 ml | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 4-[(S)-2-({5-[2-((S)-2-Cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carbonyl}-amino)-4-trifluoromethanesulfonylamino-butyryl]-piperazine-1-carboxylic acid ethyl ester | C(C)OC(=O)N1CCN(CC1)C([C@H](CCNS(=O)(=O)C(F)(F)F)NC(=O)C1=NN(C(=C1)OCC(=O)N1[C@@H](CCC1)C(NC1CCC1)=O)C1=CC=CC=C1)=O | C33H43F3N8O9S
